US04237136
100 ml of tetrahydrofuran are added to 10.1 g of 2-amino-1,3,4-thiadiazole, followed by the gradual introduction of 14.2 g of acetylene dicarboxylic acid dimethyl ester. The reaction mixture is left standing for 3 days, resulting in the formation of a clear, yellow colored solution. The solution thus formed is concentrated by evaporation in vacuo to dryness. Recrystallization of the residue from ethyl acetate gives 7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid methyl ester melting at 134° C. with decomposition.

reactant | 2-amino-1,3,4-thiadiazole | 10.1 g | NC=1SC=NN1 | C2H3N3S
reactant | acetylene dicarboxylic acid dimethyl ester | 14.2 g | COC(=O)C#CC(=O)OC | C6H6O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid methyl ester | COC(=O)C1=CC(N=C2N1N=CS2)=O | C7H5N3O3S
